US07601711B2
(4,4-Difluoro-piperidin-1-yl)-[5-(3-dimethylamino-piperidine-1-carbonyl)-1-isopropyl-1H-indol-2-yl]-methanone
The title compound was synthesized in analogy to Example 1, from 5-(3-dimethylamino-piperidine-1-carbonyl)-1-isopropyl-1H-indole-2-carboxylic acid, 4,4-difluoropiperidine hydrochloride, triethylamine and 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride, to afford the product as a light-brown oil (79%).

reactant | 5-(3-dimethylamino-piperidine-1-carbonyl)-1-isopropyl-1H-indole-2-carboxylic acid | CN(C1CN(CCC1)C(=O)C=1C=C2C=C(N(C2=CC1)C(C)C)C(=O)O)C | C20H27N3O3
reactant | 4,4-difluoropiperidine hydrochloride | Cl.FC1(CCNCC1)F
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (4,4-Difluoro-piperidin-1-yl)-[5-(3-dimethylamino-piperidine-1-carbonyl)-1-isopropyl-1H-indol-2-yl]-methanone | FC1(CCN(CC1)C(=O)C=1N(C2=CC=C(C=C2C1)C(=O)N1CC(CCC1)N(C)C)C(C)C)F | C25H34F2N4O2
